US05814653
6-(5-methylfur-3-oyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
Beginning with 8.7 mg (0.038 mMol) 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole and 10.0 mg (0.090 mMol) 5-methylfuran-3-carboxylic acid, 7.9 mg (62%) of the title compound were recovered as a beige solid.

reactant | 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.038 mMol, 8.7 mg | NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C14H19N3
reactant | 5-methylfuran-3-carboxylic acid | 0.090 mMol, 10.0 mg | CC1=CC(=CO1)C(=O)O | C6H6O3
product | 6-(5-methylfur-3-oyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 7.9 mg, 62% | CC1=CC(=CO1)C(=O)NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C20H23N3O2
